US06768023B2
Cyclooctane (1 ml), t-butyl nitrite (1 mmol), N-hydroxyphthalimide (0.2 mmol), and acetic acid (1 ml) were placed in a flask and were stirred at 80° C. in an atmosphere of argon gas (1 atm=0.101 MPa) for 20 hours. The resulting reaction mixture was analyzed to find that cyclooctanone oxime, nitrocyclooctane, and cyclooctanone were formed in yields of 55%, 5%, and 4%, respectively.

reactant | Cyclooctane | 1 ml | C1CCCCCCC1 | C8H16
reactant | t-butyl nitrite | 1 mmol | N(=O)OC(C)(C)C | C4H9NO2
reactant | N-hydroxyphthalimide | 0.2 mmol | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | cyclooctanone oxime | C1(CCCCCCC1)=NO | C8H15NO
reactant | nitrocyclooctane | [N+](=O)([O-])C1CCCCCCC1 | C8H15NO2
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
product | cyclooctanone | C1(CCCCCCC1)=O | C8H14O
